US07943607B2
1,1-Dimethylethyl 3-[({3-[(1-methylethyl)oxy]-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate
DIPEA (0.26 mL, 1.5 mmol) was added to a solution of 3-[(1-methylethyl)oxy]-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzoic acid (185 mg, 0.5 mmol), 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate (110 mg, 0.6 mmol) and HATU (247 mg, 0.65 mmol) in DMF (2 mL) and the mixture stirred at RT for 16 hours. The mixture was poured onto water (30 mL), extracted with ethyl acetate (3×15 mL), the combined organic extracts washed with 1N citric acid, saturated sodium hydrogen carbonate, brine, dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica, eluting with 60% ethyl acetate in isohexane, to give the desired compound (32 mg). 1H NMR δ (CDCl3): 1.3 (d, 6H), 1.55 (s, 9H), 3.15 (s, 3H), 3.5 (t, 2H), 4.3 (t, 2H), 4.5 (m, 1H), 6.5 (s, 1H), 6.7 (m, 2H), 7.1 (d, 1H), 7.8 (d, 1H), 7.95 (d, 1H), 8.7 (s, 1H); m/z 535 (M−H)−

reactant | DIPEA | 1.5 mmol, 0.26 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[(1-methylethyl)oxy]-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzoic acid | 0.5 mmol, 185 mg | CC(C)OC=1C=C(C(=O)O)C=C(C1)OC1=CC2=C(C(N(CCO2)C)=O)C=C1 | C20H21NO6
reactant | 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate | 0.6 mmol, 110 mg | NC1=NN(C=C1)C(=O)OC(C)(C)C | C8H13N3O2
reactant | HATU | 0.65 mmol, 247 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl 3-[({3-[(1-methylethyl)oxy]-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate | 32 mg | CC(C)OC=1C=C(C=C(C1)OC1=CC2=C(C(N(CCO2)C)=O)C=C1)C(=O)NC1=NN(C=C1)C(=O)OC(C)(C)C | C28H32N4O7
